US06399612B1
A stirred mixture of 5-chloro-thiophene-2-boronic acid (5.15 g, 0.0317 mol), 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester (8.00 g, 0.0294 mol), and tetrakis(triphenylphosphine)palladium(0) (1.09 g, 0.00094 mol) in a two-phase mixture of toluene (62 mL) and 2.0 M aqueous sodium carbonate (31 mL, 0.062 mol) was heated at 70° C. for 20 hours and allowed to cool to room temperature. Additional 5-chloro-thiophene-2-boronic acid (0.369 g, 0.00227 mol) was added, and the mixture was reheated at 65° C. for 20 hours. The mixture was cooled to room temperature and filtered through Celite, eluting with dichloromethane. Filtrate and washings were combined, and the mixture was washed with 0.10 M aqueous sodium hydroxide (100 mL), 3% aqueous ammonium hydroxide (100 mL), water, and brine. The organics were dried (Na2SO4), and rotary evaporated to a solid. The residue was dissolved in chloroform. silica gel (101 g, 230-400 mesh) was added, and the mixture was rotary evaporated to dryness. The residue was purified by chromatography on silica gel (1450 g, 230-400 mesh), eluting with hexanes-acetone (12:1, 16×1L; 9:1, 12×1L) to give 6.04 g of 4-[4-(5-chloro-thiophen-2-yl)-phenyl]-4-oxo-butyric acid, methyl ester as a bright yellow solid; mp 117-118° C.

reactant | 5-chloro-thiophene-2-boronic acid | 0.0317 mol, 5.15 g | ClC1=CC=C(S1)B(O)O | C4H4BClO2S
reactant | 4-(4-bromo-phenyl)-4-oxo-butyric acid, methyl ester | 0.0294 mol, 8.00 g | BrC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H11BrO3
reactant | sodium carbonate | 0.062 mol, 2.0 M, 31 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-chloro-thiophene-2-boronic acid | 0.00227 mol, 0.369 g | ClC1=CC=C(S1)B(O)O | C4H4BClO2S
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.00094 mol, 1.09 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 62 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(5-chloro-thiophen-2-yl)-phenyl]-4-oxo-butyric acid, methyl ester | 6.04 g | ClC1=CC=C(S1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C15H13ClO3S
